US07262185B2
2-chloro-5-trifluoromethylpyridine (13.7 g) was dissolved in ethanol (96 ml), thiourea (5.7 g) was added to the mixture, and the mixture was heated to reflux for 3 hours. After allowing the mixture to be cooled to room temperature, an aqueous solution (19.2 ml) of potassium hydroxide (6.4 g) was added to the mixture, and the mixture was heated to reflux for 1 hour. After allowing the mixture to be cooled to room temperature, diluted aqueous solution of potassium hydroxide (20 ml) was added to the mixture, and the mixture was washed with methylene chloride. With acetic acid, pH of the mixture was adjusted to about 6, and the mixture was extracted with methylene chloride. The mixture was washed with water, and dried over magnesium sulfate. The solvent was removed under reduced pressure and the obtained residue was washed with hexane/ethyl acetate, to give 2-mercapto-5-trifluoromethylpyridine (5.1 g).

reactant | 2-chloro-5-trifluoromethylpyridine | 13.7 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | thiourea | 5.7 g | NC(=S)N | CH4N2S
reactant | potassium hydroxide | 19.2 ml, 6.4 g | [OH-].[K+]
reactant | potassium hydroxide | 20 ml | [OH-].[K+]
solvent | ethanol | 96 ml | C(C)O | C2H6O
product | 2-mercapto-5-trifluoromethylpyridine | 5.1 g | SC1=NC=C(C=C1)C(F)(F)F | C6H4F3NS
